US08207164B2
e) N-(1-(5-bromo-2-fluorophenyl)-3-(tert-butyldimethylsilyloxy)-2,2-difluoropropylidene)-2-methylpropane-2-sulfinamide
To a solution of 1-(5-bromo-2-fluorophenyl)-3-(tert-butyldimethylsilyloxy)-2,2-difluoropropan-1-one (16.0 g, 40.4 mmol) in dry THF (350 mL) was added Ti(OEt)4 (16.7 mL, 80.4 mmol) and 2-Methyl-2-propane sulfonamide (5.8 g, 48.4 mmol) and refluxed for 16 h. Reaction mixture was concentrated under reduced pressure and the crude residue was directly purified by column chromatography on silica gel with 3% ethyl acetate in Hexane to furnish title compound as a colorless liquid. Yield=13.1 g (65.5%). TLC (10% ethyl acetate in Hexane): Rf=0.2),

reactant | 1-(5-bromo-2-fluorophenyl)-3-(tert-butyldimethylsilyloxy)-2,2-difluoropropan-1-one | 40.4 mmol, 16.0 g | BrC=1C=CC(=C(C1)C(C(CO[Si](C)(C)C(C)(C)C)(F)F)=O)F | C15H20BrF3O2Si
reactant | 2-Methyl-2-propane sulfonamide | 48.4 mmol, 5.8 g | CC(C)(C)S(=O)(=O)N | C4H11NO2S
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | N-(1-(5-bromo-2-fluorophenyl)-3-(tert-butyldimethylsilyloxy)-2,2-difluoropropylidene)-2-methylpropane-2-sulfinamide | BrC=1C=CC(=C(C1)C(C(CO[Si](C)(C)C(C)(C)C)(F)F)=NS(=O)C(C)(C)C)F | C19H29BrF3NO2SSi
